data_prep/sources/art_augmented_reactions.json
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1c(F)cc(NN=CCc2ccccc2)cc1Cl.Cl[Zn]Cl", "products": "COc1c(F)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl"}, {"reactants": "COc1c(F)cc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COc1c(F)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl.[H+]"}, {"reactants": "COc1c(F)cc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])cc1Cl", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(F)cccc2Cl)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2c(F)cccc2Cl)C(=N)C=C1", "products": "COc1c(F)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1Cl"}, {"reactants": "COc1c(F)cc(N)c(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c1Cl", "products": "COc1c(F)cc2c(c1Cl)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2"}, {"reactants": "COc1c(F)cc2c(c1Cl)C(c1ccccc1)C([N-][Zn-]([Cl])[Cl])[NH2+]2.[H+]", "products": "COc1c(F)cc2c(c1Cl)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2"}, {"reactants": "COc1c(F)cc2c(c1Cl)C(c1ccccc1)C([NH2+][Zn-]([Cl])[Cl])N2", "products": "COc1c(F)cc2c(c1Cl)C(c1ccccc1)C=[NH+]2.N[Zn-](Cl)Cl"}, {"reactants": "COc1c(F)cc2c(c1Cl)C(c1ccccc1)C=[NH+]2", "products": "COc1c(F)cc2[nH]cc(-c3ccccc3)c2c1Cl.[H+]"}]}
{"conditions": [], "steps": [{"reactants": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](NO)C1Cl.C=O", "products": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1Cl"}, {"reactants": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H]([NH+](O)C[O-])C1Cl", "products": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1Cl"}, {"reactants": "CC[C@@H]1C[C@H]2CC=CC[C@H]2[C@H](N(O)CO)C1Cl", "products": "C=[N+](O)[C@@H]1C(Cl)[C@H](CC)C[C@H]2CC=CC[C@H]21.[OH-]"}, {"reactants": "C=[N+](O)[C@@H]1C(Cl)[C@H](CC)C[C@H]2CC=CC[C@H]21", "products": "C=[N+]([O-])[C@@H]1C(Cl)[C@H](CC)C[C@H]2CC=CC[C@H]21"}, {"reactants": "C=[N+]([O-])[C@@H]1C(Cl)[C@H](CC)C[C@H]2CC=CC[C@H]21", "products": "CC[C@@H]1C[C@H]2CC3O[N@]4CC3C[C@H]2[C@H]4C1Cl"}]}
{"conditions": [{"role": "reagent", "text": "ZnCl2"}], "steps": [{"reactants": "COc1ccc(NN=CCc2ccccc2)c(F)c1C.Cl[Zn]Cl", "products": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1C"}, {"reactants": "COc1ccc(N[N+](=CCc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1C", "products": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1C.[H+]"}, {"reactants": "COc1ccc(N[N](C=Cc2ccccc2)[Zn-]([Cl])[Cl])c(F)c1C", "products": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(F)c2C)C(=N)C=C1"}, {"reactants": "COC1=CC(C(C=[N][Zn-]([Cl])[Cl])c2cccc(F)c2C)C(=N)C=C1", "products": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(F)c1C"}, {"reactants": "COc1cc(C(C=[N][Zn-]([Cl])[Cl])c2ccccc2)c(N)c(F)c1C", "products": "COc1cc2c(c(F)c1C)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(F)c1C)[NH2+]C([N-][Zn-]([Cl])[Cl])C2c1ccccc1.[H+]", "products": "COc1cc2c(c(F)c1C)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1"}, {"reactants": "COc1cc2c(c(F)c1C)NC([NH2+][Zn-]([Cl])[Cl])C2c1ccccc1", "products": "COc1cc2c(c(F)c1C)[NH+]=CC2c1ccccc1.N[Zn-](Cl)Cl"}, {"reactants": "COc1cc2c(c(F)c1C)[NH+]=CC2c1ccccc1", "products": "COc1cc2c(-c3ccccc3)c[nH]c2c(F)c1C.[H+]"}]}
{"conditions": [{"role": "reagent", "text": "[Rh] catalyst"}], "steps": [{"reactants": "C=CCC(O[SiH](c1ccccc1)c1cc(C)ccc1OC)C(C)C.[Rh]", "products": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(C)ccc1OC)C(C)C"}, {"reactants": "C=CCC(O[Si]([RhH])(c1ccccc1)c1cc(C)ccc1OC)C(C)C", "products": "COc1ccc(C)cc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21"}, {"reactants": "COc1ccc(C)cc1[Si]1(c2ccccc2)OC(C(C)C)C[CH]2[CH2][RhH]21", "products": "COc1ccc(C)cc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH]"}, {"reactants": "COc1ccc(C)cc1[Si]1(c2ccccc2)OC(C(C)C)CC1[CH2][RhH].[C-]#[O+]", "products": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C"}, {"reactants": "CC(C1CC([Si](c2ccccc2)(O1)c3ccccc3)C[RhH]C#O)C", "products": "COc1ccc(C)cc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]"}, {"reactants": "COc1ccc(C)cc1[Si]1(c2ccccc2)OC(C(C)C)CC1C[C](=O)[RhH]", "products": "COc1ccc(C)cc1[Si]1(c2ccccc2)OC(C(C)C)CC1CC=O.[Rh]"}]}
{"conditions": [{"role": "reagent", "text": "NaOMe"}], "steps": [{"reactants": "CCOC12OCC(O1)C(OS(=O)(=O)c1ccc(C)cc1)C(OS(=O)(=O)c1ccc(C)cc1)C2OS(=O)(=O)c1ccc(C)cc1.[O-]C", "products": "CCOC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(CO1)O2"}, {"reactants": "CCOC12C=C(OS(=O)(=O)c3ccc(C)cc3)C(OS(=O)(=O)c3ccc(C)cc3)C(CO1)O2.[O-]C", "products": "CCOC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(CO1)O2"}, {"reactants": "CCOC12C=C([O-])C(OS(=O)(=O)c3ccc(C)cc3)C(CO1)O2", "products": "CCOC12OCC(O1)C1C(=O)C12"}, {"reactants": "CCOC12OCC(O1)C1C(=O)C12.[O-]C", "products": "CCOC12OCC(O1)C1C2C1([O-])OC"}, {"reactants": "CCOC12OCC(O1)C1C2C1([O-])OC.CO", "products": "CCOC12OCC(CC1C(=O)OC)O2"}]}
